US07601674B2
2-(3-Methoxy-4-prop-2-ynyloxy-phenyl)-ethylamine hydrochloride (5.0 g, 20 mmol) and N,N-diisopropylethylamine (10 g, 78 mmol) are dissolved in 70 ml of N,N-dimethylformamide. To this solution 3-(4-chloro-phenoxy)-2-hydroxy-propionic acid (4.3 g, 20 mmol) and (benzotriazol-1-yloxy)-tris-(dimethylamino)-phosphonium hexafluorophosphate (9.5 g, 22 mmol) are added successively. The reaction mixture is stirred for 16 hours at room temperature, subsequently poured on ice-water and extracted several times with ethyl acetate. The combined organic layer is washed with brine, dried over sodium sulfate and evaporated in vacuum. The remaining oil is purified by chromatography on silicagel (ethyl acetate/hexane 6:4) to give 3-(4-chloro-phenoxy)-2-hydroxy-N-[2-(3-methoxy-4-prop-2-ynyloxyphenyl)-ethyl]-propionamide (Compound E1.24).

reactant | 2-(3-Methoxy-4-prop-2-ynyloxy-phenyl)-ethylamine hydrochloride | 20 mmol, 5.0 g | Cl.COC=1C=C(C=CC1OCC#C)CCN
reactant | N,N-diisopropylethylamine | 78 mmol, 10 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-(4-chloro-phenoxy)-2-hydroxy-propionic acid | 20 mmol, 4.3 g | ClC1=CC=C(OCC(C(=O)O)O)C=C1 | C9H9ClO4
reactant | (benzotriazol-1-yloxy)-tris-(dimethylamino)-phosphonium hexafluorophosphate | 22 mmol, 9.5 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 3-(4-chloro-phenoxy)-2-hydroxy-N-[2-(3-methoxy-4-prop-2-ynyloxyphenyl)-ethyl]-propionamide | ClC1=CC=C(OCC(C(=O)NCCC2=CC(=C(C=C2)OCC#C)OC)O)C=C1 | C21H22ClNO5
